* C:\Users\chand\eSim\FOSSEE\eSim\library\SubcircuitLibrary\SN54112\SN54112.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 02/17/26 16:05:56

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U23  Net-_U2-Pad2_ Net-_U23-Pad2_ d_inverter		
U24  Net-_U24-Pad1_ Net-_U24-Pad2_ d_inverter		
U25  Net-_U25-Pad1_ Net-_U25-Pad2_ d_inverter		
U2  Net-_U1-Pad1_ Net-_U2-Pad2_ d_inverter		
U3  Net-_U1-Pad2_ Net-_U24-Pad1_ d_inverter		
U4  Net-_U1-Pad3_ Net-_U25-Pad1_ d_inverter		
U43  Net-_U11-Pad2_ Net-_U43-Pad2_ d_inverter		
U26  Net-_U26-Pad1_ Net-_U26-Pad2_ d_inverter		
U27  Net-_U27-Pad1_ Net-_U27-Pad2_ d_inverter		
U28  Net-_U28-Pad1_ Net-_U28-Pad2_ d_inverter		
U5  Net-_U1-Pad4_ Net-_U26-Pad1_ d_inverter		
U6  Net-_U1-Pad5_ Net-_U27-Pad1_ d_inverter		
U7  Net-_U1-Pad6_ Net-_U28-Pad1_ d_inverter		
U29  Net-_U29-Pad1_ Net-_U29-Pad2_ d_inverter		
U30  Net-_U30-Pad1_ Net-_U30-Pad2_ d_inverter		
U31  Net-_U10-Pad2_ Net-_U31-Pad2_ d_inverter		
U8  Net-_U1-Pad7_ Net-_U29-Pad1_ d_inverter		
U9  Net-_U1-Pad8_ Net-_U30-Pad1_ d_inverter		
U10  Net-_U1-Pad9_ Net-_U10-Pad2_ d_inverter		
U44  Net-_U12-Pad2_ Net-_U44-Pad2_ d_inverter		
U45  Net-_U13-Pad2_ Net-_U45-Pad2_ d_inverter		
X1  Net-_U24-Pad1_ Net-_U25-Pad1_ Net-_U23-Pad2_ Net-_X1-Pad4_ 3_and		
X2  Net-_U2-Pad2_ Net-_U25-Pad1_ Net-_U24-Pad2_ Net-_X13-Pad2_ 3_and		
X3  Net-_U24-Pad1_ Net-_U2-Pad2_ Net-_U25-Pad2_ Net-_X13-Pad3_ 3_and		
X4  Net-_U25-Pad2_ Net-_U24-Pad2_ Net-_U23-Pad2_ Net-_X13-Pad4_ 3_and		
X5  Net-_U27-Pad1_ Net-_U28-Pad1_ Net-_U26-Pad2_ Net-_X14-Pad1_ 3_and		
X6  Net-_U26-Pad1_ Net-_U28-Pad1_ Net-_U27-Pad2_ Net-_X14-Pad2_ 3_and		
X7  Net-_U27-Pad1_ Net-_U26-Pad1_ Net-_U28-Pad2_ Net-_X14-Pad3_ 3_and		
X8  Net-_U28-Pad2_ Net-_U27-Pad2_ Net-_U26-Pad2_ Net-_X14-Pad4_ 3_and		
X9  Net-_U30-Pad1_ Net-_U10-Pad2_ Net-_U29-Pad2_ Net-_X15-Pad1_ 3_and		
X10  Net-_U29-Pad1_ Net-_U10-Pad2_ Net-_U30-Pad2_ Net-_X10-Pad4_ 3_and		
X11  Net-_U30-Pad1_ Net-_U29-Pad1_ Net-_U31-Pad2_ Net-_X11-Pad4_ 3_and		
X12  Net-_U31-Pad2_ Net-_U30-Pad2_ Net-_U29-Pad2_ Net-_X12-Pad4_ 3_and		
X16  Net-_U12-Pad2_ Net-_U13-Pad2_ Net-_U43-Pad2_ Net-_X16-Pad4_ 3_and		
X17  Net-_U11-Pad2_ Net-_U13-Pad2_ Net-_U44-Pad2_ Net-_X17-Pad4_ 3_and		
X18  Net-_U11-Pad2_ Net-_U12-Pad2_ Net-_U45-Pad2_ Net-_X18-Pad4_ 3_and		
X19  Net-_U43-Pad2_ Net-_U44-Pad2_ Net-_U45-Pad2_ Net-_X19-Pad4_ 3_and		
X20  Net-_U44-Pad2_ Net-_U45-Pad2_ Net-_U11-Pad2_ Net-_X20-Pad4_ 3_and		
X21  Net-_U12-Pad2_ Net-_U43-Pad2_ Net-_U45-Pad2_ Net-_X21-Pad4_ 3_and		
X22  Net-_U44-Pad2_ Net-_U43-Pad2_ Net-_U13-Pad2_ Net-_X22-Pad4_ 3_and		
X23  Net-_U12-Pad2_ Net-_U11-Pad2_ Net-_U13-Pad2_ Net-_X23-Pad4_ 3_and		
X13  Net-_X1-Pad4_ Net-_X13-Pad2_ Net-_X13-Pad3_ Net-_X13-Pad4_ Net-_U11-Pad1_ 4_OR		
X14  Net-_X14-Pad1_ Net-_X14-Pad2_ Net-_X14-Pad3_ Net-_X14-Pad4_ Net-_U12-Pad1_ 4_OR		
X15  Net-_X15-Pad1_ Net-_X10-Pad4_ Net-_X11-Pad4_ Net-_X12-Pad4_ Net-_U13-Pad1_ 4_OR		
X25  Net-_X20-Pad4_ Net-_X21-Pad4_ Net-_X22-Pad4_ Net-_X23-Pad4_ Net-_U15-Pad1_ 4_OR		
U15  Net-_U15-Pad1_ Net-_U1-Pad11_ d_inverter		
U13  Net-_U13-Pad1_ Net-_U13-Pad2_ d_inverter		
U12  Net-_U12-Pad1_ Net-_U12-Pad2_ d_inverter		
U11  Net-_U11-Pad1_ Net-_U11-Pad2_ d_inverter		
X24  Net-_X16-Pad4_ Net-_X17-Pad4_ Net-_X18-Pad4_ Net-_X19-Pad4_ Net-_U14-Pad1_ 4_OR		
U14  Net-_U14-Pad1_ Net-_U1-Pad10_ d_inverter		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ Net-_U1-Pad8_ Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ PORT		

.end
