.title kicad schematic

.include D.lib
.include NPN.lib
r6 net-_r3-pad1_ net-_q5-pad2_ 1k
q6 net-_q6-pad1_ net-_q6-pad2_ net-_q5-pad2_ Q2N2222
r5 net-_q7-pad2_ net-_r1-pad2_ 4k
r4 net-_q6-pad1_ net-_r1-pad2_ 1.8k
r10 net-_q14-pad1_ net-_r1-pad2_ 1.8k
r11 net-_q15-pad2_ net-_r1-pad2_ 4k
d4 net-_r3-pad1_ net-_d4-pad2_ 1N4148
* u1 net-_q4-pad1_ net-_d1-pad2_ net-_d2-pad2_ net-_q5-pad1_ net-_d4-pad2_ net-_d3-pad2_ net-_r3-pad1_ net-_d5-pad2_ net-_d6-pad2_ net-_q12-pad1_ net-_d8-pad2_ net-_d7-pad2_ net-_q13-pad1_ net-_r1-pad2_ port
q7 net-_q6-pad2_ net-_q7-pad2_ net-_d3-pad2_ Q2N2222
d3 net-_r3-pad1_ net-_d3-pad2_ 1N4148
q8 net-_q6-pad2_ net-_q7-pad2_ net-_d4-pad2_ Q2N2222
q15 net-_q14-pad2_ net-_q15-pad2_ net-_d7-pad2_ Q2N2222
r12 net-_r3-pad1_ net-_q13-pad2_ 1k
q14 net-_q14-pad1_ net-_q14-pad2_ net-_q13-pad2_ Q2N2222
d7 net-_r3-pad1_ net-_d7-pad2_ 1N4148
d8 net-_r3-pad1_ net-_d8-pad2_ 1N4148
q16 net-_q14-pad2_ net-_q15-pad2_ net-_d8-pad2_ Q2N2222
q13 net-_q13-pad1_ net-_q13-pad2_ net-_r3-pad1_ Q2N2222
q12 net-_q12-pad1_ net-_q11-pad3_ net-_r3-pad1_ Q2N2222
q5 net-_q5-pad1_ net-_q5-pad2_ net-_r3-pad1_ Q2N2222
q4 net-_q4-pad1_ net-_r3-pad2_ net-_r3-pad1_ Q2N2222
q3 net-_r2-pad1_ net-_q1-pad1_ net-_r3-pad2_ Q2N2222
r3 net-_r3-pad1_ net-_r3-pad2_ 1k
r1 net-_r1-pad1_ net-_r1-pad2_ 4k
r2 net-_r2-pad1_ net-_r1-pad2_ 1.8k
d1 net-_r3-pad1_ net-_d1-pad2_ 1N4148
d2 net-_r3-pad1_ net-_d2-pad2_ 1N4148
q2 net-_q1-pad1_ net-_r1-pad1_ net-_d2-pad2_ Q2N2222
q1 net-_q1-pad1_ net-_r1-pad1_ net-_d1-pad2_ Q2N2222
q10 net-_q9-pad1_ net-_q9-pad2_ net-_d6-pad2_ Q2N2222
q11 net-_q11-pad1_ net-_q9-pad1_ net-_q11-pad3_ Q2N2222
r9 net-_r3-pad1_ net-_q11-pad3_ 1k
r8 net-_q11-pad1_ net-_r1-pad2_ 1.8k
r7 net-_q9-pad2_ net-_r1-pad2_ 4k
d6 net-_r3-pad1_ net-_d6-pad2_ 1N4148
q9 net-_q9-pad1_ net-_q9-pad2_ net-_d5-pad2_ Q2N2222
d5 net-_r3-pad1_ net-_d5-pad2_ 1N4148
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
